Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L facial droop, dysarthria

 
Major Surgical or Invasive Procedure:
- Lumbar puncture (___)

 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with
mitochondrial myopathy (heterozygous variant in POLG1 gene) who
presents as a transfer from OSH for facial droop and voice
difficulties.

For the last two days, she has been feeling like she needs to
push her words out. No trouble with comprehension or word
formation. Around 6:30pm on ___, her sister saw that the left
side of her mouth was drooping, and her smile was asymmetric. 
She
presented to OSH for evaluation, and they transferred her to
___ for ?stroke. 

She denies shortness of breath, no new infectious symptoms such
as cough, cold, runny nose, diarrhea, urinary frequency or
dysuria. 

She started having symptoms at ___ when she developed
significant bilateral ptosis, equal on right and left and did 
not
fluctuate through the day. She underwent bilateral frontalis
sling procedure to help with ptosis on both eyes. Also developed
inability to move her eyes in a slowly progressive manner. She 
is
now unable to move her eyes at all and turns her head to look at
things. Never had double vision. Has had neck weakness since she
was ___ and uses her hand to left her head off the bed. This
has worsened through the years. Also having trouble keeping her
arms raised over shoulder level for a long period of time. No
difficulty going up and down stairs. Baseline dysphagia that
started a few years ago, and she needs to tilt her heads at 
times
in order to swallow food. She is independent at baseline.

She had a muscle biopsy ___ for suspected mitochondrial
myopathy. L deltoid showed many COX-negative, SDH-positive 
fibers
and EM showed numerous enlarged mitochondria with dilated 
cristae
diagnostic of mitochondrial myopathy. Genetic testing showed a
heterozygous variant in POLG1 gene (glu1143gly). Last seen by
neuromuscular in ___. TTE normal. 
 
Past Medical History:
Mitochondrial myopathy
 
Social History:
___
Family History:
None
 
Physical Exam:
==============
ADMISSION EXAM
==============

Vitals:  T: 97.7F  HR: 69  BP: 107/69  RR: 16  SaO2: 98% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences and intact verbal comprehension. Naming intact. No
paraphasias.  No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
Unable to move extraocular muscles. V1-V3 without deficits to
light touch bilaterally. L lower facial droop, unclear if L
forehead raises as much as R forehead. Hearing intact to finger
rub bilaterally.  Palate elevation symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline.

- Motor:  Decreased bulk and normal tone. 
   [Delt] [Bic] [Tri] [ECR][FEx] [IO] [IP] [Quad] [Ham] [TA]
[Gas]
 L   4-    5-     5-   4+    4+   4+   4+    5     5-    5     5 

 R   4     5-     5-   5-    4+   4    4+    5     5-    5     5

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      2+       1
     R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally

- Gait: Normal

==============
DISCHARGE EXAM
==============
Essentially unchanged. Slightly reduced breathy dysphonia. 
 
Pertinent Results:
=========
PULMONARY
=========
NIF -35
Vital capacity 1.6L

====
LABS
====
- CBC
___ 11:20PM BLOOD WBC-10.0 RBC-4.66 Hgb-11.8 Hct-36.8 
MCV-79* MCH-25.3* MCHC-32.1 RDW-15.6* RDWSD-43.9 Plt ___
___ 11:20PM BLOOD Neuts-66.1 ___ Monos-6.8 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-6.62* AbsLymp-2.58 AbsMono-0.68 
AbsEos-0.07 AbsBaso-0.04
___ 04:50AM BLOOD WBC-6.9 RBC-4.42 Hgb-10.6* Hct-35.7 
MCV-81* MCH-24.0* MCHC-29.7* RDW-15.6* RDWSD-45.2 Plt ___

- Coag
___ 11:20PM BLOOD ___ PTT-30.0 ___

- Chem
___ 11:20PM BLOOD Glucose-91 UreaN-11 Creat-0.4 Na-140 
K-3.6 Cl-102 HCO3-21* AnGap-21*
___ 11:20PM BLOOD Albumin-4.4 Calcium-9.2 Phos-3.4 Mg-2.0
___ 04:50AM BLOOD Glucose-85 UreaN-11 Creat-0.4 Na-139 
K-4.1 Cl-102 HCO3-25 AnGap-16
___ 04:50AM BLOOD Albumin-3.9 Calcium-8.9 Phos-5.9* Mg-2.1

- Enzymes
___ 11:20PM BLOOD ALT-22 AST-212* CK(CPK)-5561* AlkPhos-55 
TotBili-0.4
___ 04:50AM BLOOD ALT-27 AST-211* CK(CPK)-3729* AlkPhos-50 
TotBili-0.3 LD(LDH)-585*

- Other Metabolic
___ 04:50AM BLOOD CARNITINE - FROZEN-PND

- Urine
___ 12:05AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:05AM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 12:05AM URINE RBC-5* WBC-6* Bacteri-FEW Yeast-NONE 
Epi-27
___ 12:05AM URINE Mucous-MANY
___ 12:05AM URINE UCG-NEGATIVE
___ 12:05AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

===
CSF
===
___ 05:24PM CEREBROSPINAL FLUID (CSF) WBC-0 RBC-0 Polys-0% 
Lymphs-90% Monos-10% (CELLS SEEN ON CONCENTRATED SMEAR ONLY, 10 
cell differential)

=======
IMAGING
=======
- ___ CTA Head & Neck
No significant abnormalities on CT of the head without contrast. 
 No
significant abnormalities on CT angiography of the head and 
neck.

- ___ MRI Head WWO Contrast
1.  There is no evidence of acute or subacute intracranial 
process.
2.  The sulci appear slightly prominent throughout the 
frontoparietal
convexities, however this finding is nonspecific.
3.  No diffusion abnormalities are detected to indicate acute or 
subacute
ischemic changes.  There is no evidence of abnormal enhancement.
4.  Mucous retention cyst identified in the left maxillary 
sinus, no air-fluid levels are seen.
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of 
mitochondrial myopathy with chronic progressive external 
opthalmoplegia who presented with new left facial weakness and 
recurrent breathy dysphonia. Her exam was significant for 
prexisting diffuse muscle weakness (proximal > distal) and 
ophthalmoplegia, and new left upper and lower facial weakness 
(but no hyperacusis, loss of taste, or styloid foramen 
tenderness), and decreased vocal cord closure (per ENT 
evaluation). She was admitted to the stroke service for initial 
concern of stroke given the facial droop, but CTA and MRI were 
negative for any infarcts. Lumbar puncture was also negative for 
infection or inflammation. Her admission labs were significant 
for a CK 5561 on admission that decreased to 3729 on discharge 
(records show a baseline in 200s), as well as elevated AST in 
200s -- suggesting muscle damage, perhaps secondary to a 
subclinical infection or exposure. She had recent sick contacts 
(mother and ___ month old for whom she is nanny). Her laryngeal 
weakness has occurred before and typically self resolved in 
hours, though now persisted for more than a day preceding this 
presentation. It may represent a flare of her underlying disease 
triggered by the same event that caused her facial palsy. 

She was started on a short course of prednisone (60mg/day for 7 
days). Valacyclovir was deferred given the negative LP and 
unclear indication. She was seen by our neuromuscular disorder 
clinicians and will follow-up with them for further assessment 
later this month (including echocardiogram, pulmonary function 
testing, and audiogram). CSF studies also included lactate 
(elevated in mitochondrial disorders) and other metabolic 
markers. Viral studies were also sent (though unlikely given 
bland cell count). 

- Continue prednisone 60mg for 7 days. No taper. 
- Start coenzyme Q10 as directed after facial palsy improves. 
- Start l-carnitine as directed. 
- Follow-up with neuromuscular neurology (Drs. ___ 
later this month (___). 

___, MD (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  coenzyme Q10 200 mg oral DAILY  
2.  LevoCARNitine 330 mg PO BID  
3.  PredniSONE 60 mg PO DAILY Duration: 7 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth DAILY Disp #*21 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bell's Palsy; Cranial polyneuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for symptoms of 'breathy 
dysphonia' and left facial weakness. These symptoms were 
initially concerning for stroke, however MRI was negative for 
this. You were assessed by ENT who found slightly weak vocal 
cord closure, and by neurology who diagnosed your symptoms as 
most consistent with a Bell's Palsy. We did a lumbar puncture to 
rule-out any concerning infectious etiologies but this was also 
negative. Other labs are pending, but there are no immediate 
signs of infection. 

We are starting you on a short course of prednisone that can 
shorten the duration of Bell's Palsy. 
- TAKE Prednisone 60mg DAILY for 7 days. 
- START CoenzymeQ-10 200mg DAILY only after your facial weakness 
symptoms have improved. 
- START L-carnitine 330mg TWICE PER DAY now. 

Please followup with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___